US06245746B1
(B) Nα-Boc-Nδ-Cbz-Ornithinyl 2-Naphthyl Ether
Solution of Nα-Boc-Nδ-Cbz-ornithinol (587 mg), dichloromethane (17 ml), 2-naphthol (288 mg), triphenylphosphine (524 mg) and N,N′-diisopropylazodicarboxamide (393 μl) was stirred for 12 hrs at 25° C., under nitrogen. The reaction mixture was poured into dichloromethane and washed successively with saturated sodium bicarbonate and brine. The organic phase was then dried over anhydrous sodium sulfate and concentrated in vacuo. Further purification by flash chromatography gave the titled product (534 mg) as a glassy solid: 1H NMR (400 MHz, CDCl3) δ1.41 (s, 9H), 1.60-1.73 (m, 4H), 3.20 (m, 2H), 4.01 (m, 3H), 5.07 (s, 2H), 7.09 (s, 1H), 7.11 (d, J=8.3 Hz, 1H), 7.28 (m, 6H), 7.40 (t, J=8.4 Hz, 1H), and 7.71 (m, 3H).

reactant | Nα-Boc-Nδ-Cbz-ornithinol | 587 mg | C(=O)(OC(C)(C)C)N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)CO | C18H28N2O5
reactant | 2-naphthol | 288 mg | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | triphenylphosphine | 524 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N,N′-diisopropylazodicarboxamide | 393 μl | C(C)(C)NC(=O)N=NC(=O)NC(C)C | C8H16N4O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 17 ml | ClCCl | CH2Cl2
product | Nα-Boc-Nδ-Cbz-Ornithinyl 2-Naphthyl Ether | 534 mg | C1=C(C=CC2=CC=CC=C12)OC([C@@H](NC(=O)OC(C)(C)C)CCCNC(=O)OCC1=CC=CC=C1)=O | C28H32N2O6
